US09108934B2
Preparation 13: (2R,4R)-5-(4-Bromophenyl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)amino]pentanoic Acid Ethyl Ester
1-Hydroxy-1H-1,2,3-triazole-4-carboxylic acid (163 mg, 1.3 mmol) was combined with HCTU (523 mg, 1.3 mmol) and DMF, and stirred for 5 minutes at room temperature. DIPEA (661 μL, 3.8 mmol) and (2R,4R)-4-amino-5-(4-bromophenyl)-2-hydroxypentanoic acid ethyl ester (0.400 g, 1.26 mmol) were added, and the resulting mixture was stirred for 10 minutes. The mixture was evaporated under reduced pressure and purified (C18 column; 20-70% MeCN in water with 5% TFA) to yield the title compound (330 mg).

reactant | 1-Hydroxy-1H-1,2,3-triazole-4-carboxylic acid | 1.3 mmol, 163 mg | ON1N=NC(=C1)C(=O)O | C3H3N3O3
reactant | HCTU | 1.3 mmol, 523 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.8 mmol, 661 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R,4R)-4-amino-5-(4-bromophenyl)-2-hydroxypentanoic acid ethyl ester | 1.26 mmol, 0.400 g | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)Br)N)O)=O | C13H18BrNO3
solvent | DMF | CN(C)C=O | C3H7NO
product | (2R,4R)-5-(4-Bromophenyl)-2-hydroxy-4-[(1-hydroxy-1H-1,2,3-triazole-4-carbonyl)amino]pentanoic Acid Ethyl Ester | 330 mg | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)Br)NC(=O)C=1N=NN(C1)O)O)=O | C16H19BrN4O5
